US05006520
In 15 ml of dimethylformamide were suspended 4.5 g of 3-(4-hydroxyphenyl)-1-(4-methylphenyl)-1H-pyrazolo[3,4-b]pyridine, 2.2 g of 3-dimethylaminopropylchloride and 2.3 g of potassium carbonate. After the mixture was stirred at 100° C. for 4 hours, it was extracted with toluene-water. The organic layer was concentrated. By adding maleic acid to the residue, it was converted to the salt. The obtained crude crystals were recrystallized from ethanol to give 4.0 g of 3-[4-(3-dimethylaminopropoxy)phenyl]-1-(4-methylphenyl)-1H-pyrazolo[3,4-b]pyridine·maleate, m.p. 138°-140° C.

reactant | 3-(4-hydroxyphenyl)-1-(4-methylphenyl)-1H-pyrazolo[3,4-b]pyridine | 4.5 g | OC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C2=CC=C(C=C2)C | C19H15N3O
reactant | 3-dimethylaminopropylchloride | 2.2 g | CN(CCCCl)C | C5H12ClN
reactant | potassium carbonate | 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-[4-(3-dimethylaminopropoxy)phenyl]-1-(4-methylphenyl)-1H-pyrazolo[3,4-b]pyridine·maleate | 4.0 g | CN(CCCOC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C2=CC=C(C=C2)C)C.C(\C=C/C(=O)[O-])(=O)[O-] | InChI=1S/C24H26N4O.C4H4O4/c1-18-7-11-20(12-8-18)28-24-22(6-4-15-25-24)23(26-28)19-9-13-21(14-10-19)29-17-5-16-27(2)3;5-3(6)1-2-4(7)8/h4,6-15H,5,16-17H2,1-3H3;1-2H,(H,5,6)(H,7,8)/p-2/b;2-1-
